US08735384B2
A flask was charged with bis(triphenylphosphine)palladium(II)chloride (0.042 g, 0.060 mmol) and copper(I) iodide (0.023 g, 0.120 mmol) under nitrogen atmosphere. THF (4.6 mL) was added, followed by 2-bromo-1-iodo-3-methylbenzene (0.594 g, 2 mmol), triethylamine (2.3 mL, 16.50 mmol) and 3,3-dimethylbutyne (0.251 mL, 2.040 mmol). The reaction mixture was allowed to stir at RT overnight. The reaction mixture was filtered through a plug of silica gel and the plug was rinsed with Et2O. The solvent was removed under reduced pressure and the remaining residue was purified by flash chromatography (0-2% EtOAc/hexanes). 2-Bromo-1-(3,3-dimethylbut-1-ynyl)-3-methylbenzene was obtained as a light-yellow clear oil.

reactant | 2-bromo-1-iodo-3-methylbenzene | 2 mmol, 0.594 g | BrC1=C(C=CC=C1C)I | C7H6BrI
reactant | triethylamine | 16.50 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyne | 2.040 mmol, 0.251 mL | CC(C#C)(C)C | C6H10
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.060 mmol, 0.042 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.120 mmol, 0.023 g | [Cu]I
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
product | 2-Bromo-1-(3,3-dimethylbut-1-ynyl)-3-methylbenzene | BrC1=C(C=CC=C1C)C#CC(C)(C)C | C13H15Br
